US07666848B2
g) (4,5-Diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzyl)-thiophen-3-yloxy]-tetrahydro-pyran-3-yl) acetate
630 mg of (4,5-diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzoyl)-thiophen-3-yloxy]-tetrahydro-pyran-3-yl) acetate were dissolved in 30 ml of acetonitrile and cooled to 0° C. in an ice bath. 1.31 ml of trimethylchlorosilane and 652 mg of sodium cyanoborohydride were added, the ice bath was removed and the reaction was stirred for 2 h. 100 ml of water were added to the reaction mixture, which was extracted twice with 70 ml of dichloromethane each time. The combined organic phases were washed with 50 ml of saturated sodium chloride solution, dried over sodium sulfate and concentrated. The crude product was purified by column chromatography (SiO2, ethyl acetate/n-heptane=1:1).

reactant | (4,5-diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzoyl)-thiophen-3-yloxy]-tetrahydro-pyran-3-yl) acetate | 630 mg | C(C)(=O)OC1C(OC(C(C1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(SC(=C1)C(C)C)C(C1=CC=C(C=C1)OC)=O | C29H34O12S
reactant | trimethylchlorosilane | 1.31 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium cyanoborohydride | 652 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (4,5-Diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzyl)-thiophen-3-yloxy]-tetrahydro-pyran-3-yl) acetate | C(C)(=O)OC1C(OC(C(C1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(SC(=C1)C(C)C)CC1=CC=C(C=C1)OC | C29H36O11S
